US08003004B2
Preparation of Ethyl 2,2,3,3-tetrafluoropropyl carbonate
2,2,3,3-tetrafluoropropan-1-ol (121 g 0.92 mol), pyridine (76 g 0.96 mol) and 350 mL of methyl-t-butyl ether were combined in a 1 L 3-neck round bottom flask. The flask was equipped with an overhead stirring mechanism, thermocouple, addition funnel, cold water condenser, and a dry nitrogen bubbler. The reaction flask was kept cool using solid CO2 in a water bath. Ethylchloroformate (100 g, 0.92 mol) was added via an addition funnel dropwise at a rate such that the temperature of the reaction mix did not exceed 0° C. Once the addition was complete the mix was allowed to warm to room temperature on its own. The reaction mix was then quenched with 100 mL of water. The water portion was extracted with 2×100 mL portions of methyl t-butyl ether. The combined organic extracts were washed with 100 mL of 1N HCl and 100 mL of water. The solvent was removed by rotary evaporation and the carbonate was purified by fractional distillation using a concentric tube column. The structure of the product was confirmed by GC/MS and the purity by GC-FID was 99.05% of the desired compound.

reactant | 2,2,3,3-tetrafluoropropan-1-ol | 0.92 mol, 121 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | pyridine | 0.96 mol, 76 g | N1=CC=CC=C1 | C5H5N
reactant | CO2 | C(=O)=O | CO2
reactant | Ethylchloroformate | 0.92 mol, 100 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | methyl-t-butyl ether | 350 mL | COC(C)(C)C | C5H12O
product | Ethyl 2,2,3,3-tetrafluoropropyl carbonate | C(OCC)(OCC(C(F)F)(F)F)=O | C6H8F4O3
